US05807880
Using 2-(9H-fluoren-2-yl)propanol and imidazole as starting compounds, the process of Example 1 was repeated to obtain 1-[1-(9H-fluoren-2-yl)-1-methylethyl]-1H-imidazole.

reactant | 2-(9H-fluoren-2-yl)propanol | C1=C(C=CC=2C3=CC=CC=C3CC12)C(CO)C | C16H16O
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 1-[1-(9H-fluoren-2-yl)-1-methylethyl]-1H-imidazole | C1=C(C=CC=2C3=CC=CC=C3CC12)C(C)(C)N1C=NC=C1 | C19H18N2
